US06953801B2
(±)-cis-2-(4-Chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine-3,4-dione (49.7 mg, 0.115 mmol) was dissolved in dry THF (10 mL) and BH3.THF (1 mL, 1 mmol) was added dropwise to the mixture, which was then heated at reflux overnight. The solution was cooled to 0° C. and MeOH (2 mL) was added dropwise. The solvent was removed by evaporation and the crude product was dissolved in MeOH (10 mL) and 12N HCl (2 mL). The solution was refluxed for 4 hours. The reaction mixture was concentrated (˜2 mL) followed by basification with 1N NaOH. The aqueous solution was extracted with CH2Cl2 (3×25 mL). The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The crude products were purified by preparatory TLC eluting with CH2Cl2/MeOH (97:3) to yield the (±)-cis- (20.3 mg, 43.8%) and (±)-trans-2-(4-chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine (14.3 mg, 30.9%) with (±)-cis-2-(4-chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine eluting further up the plate. (±)-trans-2-(4-Chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine 1H NMR (CDCl3) δ 7.20 (d, J=8.7 Hz, 1H, ArH), 6.89-6.83 (m, 3H, ArH), 6.47-6.40 (m, 2H, ArH), 4.16 (m, 1H), 3.95-3.84 (m, 1H), 3.90 (s, 3H, OCH3), 3.88 (s, 6H, OCH3), 3.58-3.46 (m, 1H), 3.41-3.36 (m, 1H), 3.26-3.22 (m, 1H), 2.99-2.71 (m, 3H), 2.34-2.20 (m, 2H), 1.95-1.83 (m, 1H), 1.64-1.54 (m, 1H). LCMS m/z 403 (M++1, 100, 1.90 min).

reactant | (±)-cis-2-(4-Chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine-3,4-dione | 0.115 mmol, 49.7 mg | ClC1=C(C=C(C=C1)N1C[C@H]2N(C(C1=O)=O)[C@@H](CC2)C2=CC(=C(C=C2)OC)OC)OC | C22H23ClN2O5
reactant | BH3.THF | 1 mmol, 1 mL | B.C1CCOC1
reactant | MeOH | 2 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-trans-2-(4-chloro-3-methoxy-phenyl)-6-(3,4-dimethoxy-phenyl)-hexahydro-pyrrolo[1,2-a]pyrazine | 14.3 mg, 30.9% | ClC1=C(C=C(C=C1)N1C[C@@H]2N(CC1)[C@@H](CC2)C2=CC(=C(C=C2)OC)OC)OC | C22H27ClN2O3
